US05516788
cis-4b,5,9b,10-Tetrahydro-8 methylindeno[1,2-b]indole
5,10-Dihydro-8-methylindeno[1,2-b]indole (10 g, 46 mmol) was stirred at room temperature in glacial acetic acid (150 cm3). Sodium cyanoborohydride (8.6 g, 3 equivalents) was added portionwise over a period of 30 minutes. The reaction was stirred for a further hour, and then poured into ice/water (200 cm3). After stirring for 30 minutes, the acidic solution was made basic by the addition of sodium hydroxide, and the colourless solid thus formed collected by filtration. This solid was washed copiously with water until the residue was free from cyanide ion, and then dried in a vacuum oven to yield the title compound as a colourless solid. Yield: 7.5 g (73%) M.p. 110° C. (from ethanol/water). 1H NMR (CDCl3) δ: 2.24 (3H, s,), 3.20 (1H, dd,), 3.50 (1H, dd,) 3.9 (1H, br,), 4.16 (1H, dd,), 5.23 (1H, d,), 6.52 (1H,d,), 6.80 (1H, d,), 6.99 (1H, s,), 7.1-7.4 (4H, m,).

reactant | 5,10-Dihydro-8-methylindeno[1,2-b]indole | 46 mmol, 10 g | CC1=CC=2C3=C(NC2C=C1)C1=CC=CC=C1C3 | C16H13N
reactant | Sodium cyanoborohydride | 8.6 g, 3 equivalents | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 150 cm3 | C(C)(=O)O | C2H4O2
product | cis-4b,5,9b,10-Tetrahydro-8 methylindeno[1,2-b]indole | CC1=CC=2[C@@H]3[C@H](NC2C=C1)C1=CC=CC=C1C3 | C16H15N
